US06339077B1
Methyl 4-(4-bromobenzylamino)-2-methylquinoline-3-carboxylate was synthesized by the same method as described for 1-(4-(4-bromobenzylamino-2-methylquinolin-3-yl)ethanone (Example 1, Intermediate 2c), starting from methyl 4-amino-2-methylquinoline-3-carboxylate and 4-bromobenzyl bromide. Melting point: 89° C.; MS(ES+): 385/387.

reactant | methyl 4-amino-2-methylquinoline-3-carboxylate | NC1=C(C(=NC2=CC=CC=C12)C)C(=O)OC | C12H12N2O2
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | Methyl 4-(4-bromobenzylamino)-2-methylquinoline-3-carboxylate | BrC1=CC=C(CNC2=C(C(=NC3=CC=CC=C23)C)C(=O)OC)C=C1 | C19H17BrN2O2
